US06727264B1
N-[3-(1-{5-OXO-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 5-chloro-1-[4-(trifluoromethyl)phenyl]-1-pentanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 461.2 (M+H)+.

reactant | 5-chloro-1-[4-(trifluoromethyl)phenyl]-1-pentanone | ClCCCCC(=O)C1=CC=C(C=C1)C(F)(F)F | C12H12ClF3O
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-[3-(1-{5-OXO-5-[4-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | O=C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)C1=CC=C(C=C1)C(F)(F)F | C26H31F3N2O2
